US04806549
3-Butyryl-4-chloro-8-methylquinoline (2.48 g, 10 mmol), 2,4-dichloroaniline (2.43 g, 15 mmol) and 1,4-dioxan (10 ml) were stirred at room temperature overnight then heated at reflux for 30 minutes. The hydrochloride salt was filtered off, converted to free base, triturated with ethanol and recrystallised from ethyl acetate to give 3-butyryl-4-(2,4-dichlorophenylamino)-8-methylquinoline (2.26 g), m.p. 169°-170°.

reactant | 3-Butyryl-4-chloro-8-methylquinoline | 10 mmol, 2.48 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)C | C14H14ClNO
reactant | 2,4-dichloroaniline | 15 mmol, 2.43 g | ClC1=C(N)C=CC(=C1)Cl | C6H5Cl2N
solvent | 1,4-dioxan | 10 ml | O1CCOCC1 | C4H8O2
product | 3-butyryl-4-(2,4-dichlorophenylamino)-8-methylquinoline | 2.26 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=C(C=C1)Cl)Cl)C | C20H18Cl2N2O
